US06797823B1
4-{[7-(Benzyloxy)-6-methoxy-4-quinazolinyl]oxy}-2-chloroaniline
7-(Benzyloxy)-4-chloro-6-methoxyquinazoline (30.0 g) and tetrabutylammonium chloride (13.9 g) were dissolved in acetone (400 ml), and the solution was stirred at room temperature. A solution of 4-amino-3-chlorophenol hydrochloride (36.0 g) in a 20% aqueous sodium hydroxide solution (64 ml) was added thereto. The mixture was then heated under reflux for 3 hr. The reaction solution was cooled to room temperature, and chloroform and water were added to the cooled reaction solution, followed by extraction with chloroform. The extract was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine and was then dried over anhydrous sodium sulfate. Next, sodium sulfate was removed, and the solvent was then removed by distillation. The residue was washed with methanol, and the washed solid was subjected to evaporation to dryness in vacuo through a vacuum pump to give 36.6 g (yield 90%) of the title compound.

reactant | 7-(Benzyloxy)-4-chloro-6-methoxyquinazoline | 30.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 4-amino-3-chlorophenol hydrochloride | 36.0 g | Cl.NC1=C(C=C(C=C1)O)Cl
reactant | sodium hydroxide | 64 ml | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrabutylammonium chloride | 13.9 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-{[7-(Benzyloxy)-6-methoxy-4-quinazolinyl]oxy}-2-chloroaniline | 36.6 g, yield 90% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(N)C=C1)Cl)OC | C22H18ClN3O3
